US07144913B2
Step 1: (4-bromo-6-fluoro-1H-indol-2-yl)methanol
To a solution of methyl 4-bromo-6-fluoro-1H-indole-2-carboxylate (3 g, 11 mmol) in THF (50 mL) at −30° C. was added diisobutylaluminum hydride (33 mmol, 1.5M toluene solution). The mixture was stirred for 1 hour at −30° C. and 1N HCl was added. The phases were separated and the aqueous layer was extracted with Et2O. The combined organic layers were dried over Na2SO4 and concentrated to give 2.6 g of the title compound used as such.

reactant | methyl 4-bromo-6-fluoro-1H-indole-2-carboxylate | 11 mmol, 3 g | BrC1=C2C=C(NC2=CC(=C1)F)C(=O)OC | C10H7BrFNO2
reactant | diisobutylaluminum hydride | 33 mmol, 1.5M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | HCl | 1N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (4-bromo-6-fluoro-1H-indol-2-yl)methanol | 2.6 g | BrC1=C2C=C(NC2=CC(=C1)F)CO | C9H7BrFNO
